US07884207B2
Under a nitrogen atmosphere triethylamine (1.12 mL, 8.06 mmol) was added to a suspension of 4-[(4-amino-2-ethyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]piperidin-4-ol dihydrochloride (1.04 g, 2.60 mmol) in chloroform (26 mL). Methanesulfonic anhydride (0.50 g, 2.86 mmol) was added and the reaction mixture was stirred at ambient temperature. After 1.5 hours more methanesulfonic anhydride (0.25 g) was added and a solution was obtained. On two successive days more methanesulfonic anhydride (0.50 g) and triethylamine (360 μL) were added. The reaction mixture was stirred for 2 hours after the second addition and then concentrated under reduced pressure. The residue was triturated with saturated aqueous sodium bicarbonate, isolated by filtration, washed with water, triturated with hot chloroform, isolated by filtration, washed with chloroform and hexanes, dried, triturated with acetonitrile, sonicated, isolated by filtration, and then dried under high vacuum at 130° C. to provide 4-[(4-amino-2-ethyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]-1-(methylsulfonyl)piperidin-4-ol as a white powder, mp>255.0° C. Anal. Calcd for C18H24N6O3S C, 53.45; H, 5.98; N, 20.78. Found: C, 53.55; H, 5.71; N, 20.75.

reactant | triethylamine | 8.06 mmol, 1.12 mL | C(C)N(CC)CC | C6H15N
reactant | 4-[(4-amino-2-ethyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]piperidin-4-ol dihydrochloride | 2.60 mmol, 1.04 g | Cl.Cl.NC1=NC=2C=CC=NC2C2=C1N=C(N2CC2(CCNCC2)O)CC
reactant | Methanesulfonic anhydride | 2.86 mmol, 0.50 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | methanesulfonic anhydride | 0.25 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | methanesulfonic anhydride | 0.50 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | triethylamine | 360 μL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 26 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-[(4-amino-2-ethyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]-1-(methylsulfonyl)piperidin-4-ol | NC1=NC=2C=CC=NC2C2=C1N=C(N2CC2(CCN(CC2)S(=O)(=O)C)O)CC | C18H24N6O3S
